US07354920B2
a) 1-(4-Benzyl-morpholin-2-yl)-2-(2,5-dichloro-phenyl)-1-phenyl-ethanol
The procedure for the synthesis of example 18a, 1-(4-Benzyl-morpholin-2-yl)-2-(2-chloro-6-fluoro-phenyl)-1-phenyl-ethanol, using 2,5-dichlorobenzyl magnesium chloride as starting material (available from Rieke Metals) was followed making non-critical variations, to yield the title compound. This material was used in step b) without further purification. LCMS (6 minutes method) [M+H]+=442 @ Rt 3.48 min. major peak.

reactant | 1-(4-Benzyl-morpholin-2-yl)-2-(2-chloro-6-fluoro-phenyl)-1-phenyl-ethanol | C(C1=CC=CC=C1)N1CC(OCC1)C(CC1=C(C=CC=C1F)Cl)(O)C1=CC=CC=C1 | C25H25ClFNO2
reactant | 2,5-dichlorobenzyl magnesium chloride | ClC1=C(C[Mg]Cl)C=C(C=C1)Cl
product | 1-(4-Benzyl-morpholin-2-yl)-2-(2,5-dichloro-phenyl)-1-phenyl-ethanol | C(C1=CC=CC=C1)N1CC(OCC1)C(CC1=C(C=CC(=C1)Cl)Cl)(O)C1=CC=CC=C1 | C25H25Cl2NO2
